US04229348
The procedure used in Example 1 (1) was repeated except that 3,4,5-triacetoxybenzamide (8.0 g) and oxalyl chloride (8.6 g) were used instead of 3,4-diacetoxybenzamide (7.5 g) and oxalyl chloride (10.1 g) to give a solution of 3,4,5-triacetoxybenzoyl isocyanate in anhydrous dichloromethane (40 ml).

reactant | 3,4,5-triacetoxybenzamide | 8.0 g | C(C)(=O)OC=1C=C(C(=O)N)C=C(C1OC(C)=O)OC(C)=O | C13H13NO7
reactant | oxalyl chloride | 8.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,4-diacetoxybenzamide | 7.5 g | C(C)(=O)OC=1C=C(C(=O)N)C=CC1OC(C)=O | C11H11NO5
reactant | oxalyl chloride | 10.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 3,4,5-triacetoxybenzoyl isocyanate | C(C)(=O)OC=1C=C(C(=O)N=C=O)C=C(C1OC(C)=O)OC(C)=O | C14H11NO8
